US05155122
Sodium thiomethoxide (0.5 9, 0.007 mole) is added to a solution of (E)-2,6-bis(1,1-dimethyl ethyl)-4-[2-[5-(methylthio)-1,3,4-thiadiazol-2-yl]ethenyl]-phenol (1.0 g, 0.0028 mole) in dimethylformamide (10 ml). The resulting mixture is heated to 75° C. for two hours. The solution is cooled and diluted with water (20 ml). The mixture is treated with 1M NaOH (6 ml) and the aqueous solution is washed with ether (2×). The aqueous layer is made acidic by the addition of cold 6M HCl (3 ml) and the product is then extracted with a 1:1 ethyl acetate/diethyl ether mixture (2×). The combined organic layers are washed with brine and dried over MgSO4. Filtration and concentration in vacuo, followed by recrystallization from ethyl acetate/hexane gives 0.55 g of (E)-5-[2-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethenyl]-1,3,4-thiadiazol-2(3H)-thione. (0.98 g theor., 57%), mp 248°-249° C.

reactant | Sodium thiomethoxide | 0.007 mole | C[S-].[Na+]
reactant | (E)-2,6-bis(1,1-dimethyl ethyl)-4-[2-[5-(methylthio)-1,3,4-thiadiazol-2-yl]ethenyl]-phenol | 0.0028 mole, 1.0 g | CC(C)(C)C1=C(C(=CC(=C1)\C=C\C=1SC(=NN1)SC)C(C)(C)C)O | C19H26N2OS2
reactant | NaOH | 1M, 6 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | (E)-5-[2-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethenyl]-1,3,4-thiadiazol-2(3H)-thione | 0.55 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)/C=C/C1=NNC(S1)=S | C18H24N2OS2
